US07531545B2
To a solution of 4-(S)-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid (4-cyano-cyclohexyl)-methyl-amide (0.26 g, 0.43 mmol) and trimethylsilylazide (0.17 mL, 1.29 mmol) in DME (1.5 mL) was added dibutyltin oxide (0.10 g, 0.40 mmol). The mixture was then heated in a microwave at 150° C. for 20 min. The solution was purified by HPLC to yield 4-(S)-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid methyl-[4-(1H-tetrazol-5-yl)-cyclohexyl]-amide as a white solid, as its corresponding trifluoroacetate salt.

reactant | 4-(S)-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid (4-cyano-cyclohexyl)-methyl-amide | 0.43 mmol, 0.26 g | C(#N)C1CCC(CC1)N(C(CC[C@@H](C(C)C)N1C(=NC2=C(C1)C=C(N=C2)OC2=CC=CC=C2)N)=O)C | C28H36N6O2
reactant | trimethylsilylazide | 1.29 mmol, 0.17 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.40 mmol, 0.10 g | C(CCC)[Sn](CCCC)=O
solvent | DME | 1.5 mL | COCCOC | C4H10O2
product | 4-(S)-(2-amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-5-methyl-hexanoic acid methyl-[4-(1H-tetrazol-5-yl)-cyclohexyl]-amide | CN(C(CC[C@@H](C(C)C)N1C(=NC2=C(C1)C=C(N=C2)OC2=CC=CC=C2)N)=O)C2CCC(CC2)C2=NN=NN2 | C28H37N9O2
